US07351726B2
Step 4: Synthesis of 1-(3-Benzyl-2-ethyl-benzofuran-6-yl)-propan-1-one:
Propionyl chloride (7.3 mL; 0.784 mol) was added dropwise to the mixture of Aluminum chloride (10.5 g; 0.784 mol), and 3-benzyl-2-ethyl-benzofuran (18.5 g; 0.784 mol) in carbon disulfide (50 mL) while stirring and cooling in an ice bath. The reaction mixture was then stirred at room temperature for 30 minutes then heated at reflux for 2 hours. The solvent was then evaporated and the residue was diluted with ether then poured into water. The organic phase was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was crystallized from ethyl acetate/hexane mixture to give the title compound (9.6 g) as a solid, mp: 86-87° C. Mass spectrum (ESI, [M+] m/z 292. 1HNMR (400 MHz, DMSO-d6): δ 1.08 (t, 3H, J=7.26 Hz), 1.24 (t, 3H, J=7.47 Hz), 2.88 (q, 2H, J=7.47 Hz), 2.04 (q, 2H, J=7.26 Hz), 4.02 (s, 2H), 7.16-7.19 (m,1H), 7.23-7.29 (m, 5H), 7.47 (d, 1H, J=8.09 Hz), 7.78 (dd, 1H, J=8.09, 1.45 Hz), 8.07 (d, 1H, J=1.45 Hz). Elemental Analysis for C20H20O2: Calculated: C, 82.16; H, 6.90 Found: C, 82.22; H, 7.01.

reactant | Propionyl chloride | 0.784 mol, 7.3 mL | C(CC)(=O)Cl | C3H5ClO
reactant | Aluminum chloride | 0.784 mol, 10.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-benzyl-2-ethyl-benzofuran | 0.784 mol, 18.5 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC=C2)CC | C17H16O
solvent | carbon disulfide | 50 mL | C(=S)=S | CS2
product | 1-(3-Benzyl-2-ethyl-benzofuran-6-yl)-propan-1-one | 9.6 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=CC(=C2)C(CC)=O)CC | C20H20O2
